US05254578
5(b) 6-(4-Methoxybenzylthio)-2,2-dimethyl-2H-1-benzopyran
A solution of 73.84 g of 3-chloro-3-methyl-1-butyne in 225 ml of methanol, 11.95 g of potassium iodide and 99.50 g of potassium carbonate was added to the whole of the 4-(4-methoxybenzylthio)phenol prepared as described in step (a) above in 0.9 liters of methyl ethyl ketone, and the resulting mixture was heated under reflux for 40 hours in an atmosphere of nitrogen. At the end of this time, the reaction mixture was extracted with ethyl acetate, and the extract was washed with water and with a saturated aqueous solution of sodium chloride, in that order. It was then dried over anhydrous sodium sulfate, after which the solvent was removed by distillation under reduced pressure. The residue was purified by column chromatography through silica gel, using a 5:1 by volume mixture of cyclohexane and ethyl acetate as the eluent, to afford 67.68 g of an ether as an oil. A solution of the whole of this ether in 340 ml of o-dichlorobenzene was then heated under reflux for 2 hours in an atmosphere of nitrogen. At the end of this time, the reaction mixture was freed from the solvent by distillation under reduced pressure, and the residue was purified by column chromatography through silica gel, using a 20:1 by volume mixture of cyclohexane and ethyl acetate as the eluent. The eluted product was recrystallized from hexane to afford 48.74 g of the title compound, melting at 58°-59° C.

reactant | 3-chloro-3-methyl-1-butyne | 73.84 g | ClC(C#C)(C)C | C5H7Cl
reactant | potassium iodide | 11.95 g | [I-].[K+]
reactant | potassium carbonate | 99.50 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(4-methoxybenzylthio)phenol | COC1=CC=C(CSC2=CC=C(C=C2)O)C=C1 | C14H14O2S
solvent | methanol | 225 ml | CO | CH4O
solvent | methyl ethyl ketone | 0.9 liters | C(C)C(=O)C | C4H8O
solvent | o-dichlorobenzene | 340 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
solvent | ether | CCOCC | C4H10O
product | 6-(4-Methoxybenzylthio)-2,2-dimethyl-2H-1-benzopyran | 48.74 g | COC1=CC=C(CSC=2C=CC3=C(C=CC(O3)(C)C)C2)C=C1 | C19H20O2S
